US08536351B2
A solution of triethylamine (0.11 ml, 0.79 mmol) in dichloromethane (2 ml) is added dropwise to a chilled (ice-bath) solution of 2-(2,4,6-trimethylphenyl)-5-(tetrahydrofuran-3-yl)cyclohexane-1,3-dione (prepared by a method analogous to that described in Example 2) and acetyl chloride (0.056 ml, 0.79 mmol) in dichloromethane (4.5 ml). Once the addition is complete the cooling bath is removed and the reaction mixture is stirred at room temperature overnight. The reaction mixture is diluted with dichloromethane (35 ml) and washed with saturated aqueous sodium bicarbonate solution (20 ml). The organic phase is dried over anhydrous magnesium sulphate, filtered and the filtrate is evaporated in vacuo. The residue is purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane to give 3-oxo-5-(tetrahydrofuran-3-yl)-2-(2,4,6-trimethylphenyl)cyclohex-1-enyl acetate.

reactant | triethylamine | 0.79 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(2,4,6-trimethylphenyl)-5-(tetrahydrofuran-3-yl)cyclohexane-1,3-dione | CC1=C(C(=CC(=C1)C)C)C1C(CC(CC1=O)C1COCC1)=O | C19H24O3
reactant | acetyl chloride | 0.79 mmol, 0.056 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
product | 3-oxo-5-(tetrahydrofuran-3-yl)-2-(2,4,6-trimethylphenyl)cyclohex-1-enyl acetate | C(C)(=O)OC1=C(C(CC(C1)C1COCC1)=O)C1=C(C=C(C=C1C)C)C | C21H26O4
